US04654167
Preparation of 1-(p-tert.-butoxycyclohexyl)-1-ethyl acetate
A mixture of 200 g (1 mole) of 1-(p-tert.-butoxycyclohexyl)-ethan-1-ol and 306 g (3 moles) of acetic anhydride was refluxed for 30 minutes. 260 g of a mixture of acetic acid and excess acetic anhydride were distilled off in the course of 3 hours under atmospheric pressure, and the residual acetic anhydride was then removed under reduced pressure (20 mbar). The residue was cooled to 20° C., washed with water and aqueous bicarbonate solution and again with water and then fractionated to give 218 g of a fraction which distilled over at 90° C./0.1 mbar and had an interesting herbaceous fruity note.

reactant | 1-(p-tert.-butoxycyclohexyl)-ethan-1-ol | 1 mole, 200 g | C(C)(C)(C)OC1CCC(CC1)C(C)O | C12H24O2
reactant | acetic anhydride | 3 moles, 306 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(p-tert.-butoxycyclohexyl)-1-ethyl acetate | C(C)(=O)OC(C)C1CCC(CC1)OC(C)(C)C | C14H26O3
